US05750531
Step 3: 6-Ethyl-4-(2-methyl-4-fluorophenylamino)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(0.35 ml, 3.15 mmol) was added to a mixture solution of 6-ethyl-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine(0.40 g, 1.46 mmol) and dimethylformamide(10 ml), 0.51 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | 2-methyl-4-fluoroaniline | 3.15 mmol, 0.35 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | 6-ethyl-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine | 1.46 mmol, 0.40 g | C(C)C1=CC(=NC(=N1)N1CC2=CC=CC=C2CC1)Cl | C15H16ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-Ethyl-4-(2-methyl-4-fluorophenylamino)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.51 g, Yield: 88% | Cl.C(C)C1=CC(=NC(=N1)N1CC2=CC=CC=C2CC1)NC1=C(C=C(C=C1)F)C | InChI=1S/C22H23FN4.ClH/c1-3-19-13-21(25-20-9-8-18(23)12-15(20)2)26-22(24-19)27-11-10-16-6-4-5-7-17(16)14-27;/h4-9,12-13H,3,10-11,14H2,1-2H3,(H,24,25,26);1H
